US08258169B2
To a stirred mixture of erythro 1-(2,4-dichlorophenyl)-2-nitro-propan-1-ol (2.5 g, 10.0 mmol) in dry dichloromethane (20 ml) under nitrogen atmosphere DAST (1.3 ml, 10.0 mmol) in dichloromethane (5 ml) was added dropwise under cooling to 5° C. The solution was stirred at ambient temperature for 1 hour. Dichloromethane (80 ml) was added and the organic layer was washed sequentially with saturated NaHCO3 (50 ml), 1M HCl (30 ml) and sole (30 ml). The organic layer was dried over NaSO4, filtered, and concentrated. 2.5 g of 2,4-dichloro-1-(1-fluoro-2-nitro-propyl)-benzene was obtained in the form of a brown oil.

reactant | 1-(2,4-dichlorophenyl)-2-nitro-propan-1-ol | 10.0 mmol, 2.5 g | ClC1=C(C=CC(=C1)Cl)C(C(C)[N+](=O)[O-])O | C9H9Cl2NO3
reactant | DAST | 10.0 mmol, 1.3 ml | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 2,4-dichloro-1-(1-fluoro-2-nitro-propyl)-benzene | 2.5 g | ClC1=C(C=CC(=C1)Cl)C(C(C)[N+](=O)[O-])F | C9H8Cl2FNO2
